US06677368B2
4-(3-Fluoro-phenyl)-3-[1-{3-[(R)-2-((S)-3-fluoro-pyrrolidin-1-ylmethyl)-pyrrolidine-1-carbonyl]-5-methyl-1H-pyrrol-2-yl}-meth-(Z)-ylidene]-1,3-dihydro-indol-2-one
To a solution of 2-[4-(3-fluoro-phenyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-5-methyl-1H-pyrrole-3-carboxylic acid (100 mg, 0.28 mmol), EDC (120 mg, 0.63 mmol), HOBt (40 mg, 0.3 mmol) in DMF (4 mL) was added TEA (0.15 mL) and (S)-3-fluoro-1-(R)-1-pyrrolidin-2-ylmethyl-pyrrolidine (95 mg, 0.55 mmol). The mixture was stirred at rt for 20 hours. The reaction was diluted with DCM, washed with water, NaHCO3, dried and concentrated. The residue was purified on a silica gel column to give the titled compound.

reactant | 2-[4-(3-fluoro-phenyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-5-methyl-1H-pyrrole-3-carboxylic acid | 0.28 mmol, 100 mg | FC=1C=C(C=CC1)C1=C2/C(/C(NC2=CC=C1)=O)=C/C=1NC(=CC1C(=O)O)C | C21H15FN2O3
reactant | EDC | 0.63 mmol, 120 mg
reactant | HOBt | 0.3 mmol, 40 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 4-(3-Fluoro-phenyl)-3-[1-{3-[(R)-2-((S)-3-fluoro-pyrrolidin-1-ylmethyl)-pyrrolidine-1-carbonyl]-5-methyl-1H-pyrrol-2-yl}-meth-(Z)-ylidene]-1,3-dihydro-indol-2-one | FC=1C=C(C=CC1)C1=C2/C(/C(NC2=CC=C1)=O)=C/C=1NC(=CC1C(=O)N1[C@H](CCC1)CN1C[C@H](CC1)F)C | C30H30F2N4O2
